US09062070B2
Step B: Benzyl 9a-methyl-3-((S)-3-methyl-1-oxoisochroman-6-yl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate
The mixture of benzyl 4-(2-hydroxy-2-((S)-3-methyl-1-oxoisochroman-6-yl)ethyl)-3-(hydroxymethyl)-3-methylpiperazine-1-carboxylate (762 mg, 1.60 mmol) and cyanomethylenetributylphosphorane (471 mg, 1.90 mmol) in dry benzene was degassed and heated to 135° C. in a microwave reactor for 3.5 h. After which point, the reaction mixture was cooled down to rt, concentrated to dryness and purified on silica gel to afford the title compound (cis or trans): MS: m/e 451.2 (M+H)+.

reactant | benzyl 4-(2-hydroxy-2-((S)-3-methyl-1-oxoisochroman-6-yl)ethyl)-3-(hydroxymethyl)-3-methylpiperazine-1-carboxylate | 1.60 mmol, 762 mg | OC(CN1C(CN(CC1)C(=O)OCC1=CC=CC=C1)(C)CO)C=1C=C2C[C@@H](OC(C2=CC1)=O)C | C26H32N2O6
reactant | cyanomethylenetributylphosphorane | 1.90 mmol, 471 mg | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Benzyl 9a-methyl-3-((S)-3-methyl-1-oxoisochroman-6-yl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate | CC12COC(CN1CCN(C2)C(=O)OCC2=CC=CC=C2)C=2C=C1C[C@@H](OC(C1=CC2)=O)C | C26H30N2O5
